US05147875
A stirred solution of 4-methylthio-2-nitrobenzoic acid (4.56 g) and thionyl chloride (2.77 g) in benzene (65 ml) was heated under reflux for 1.5 hours. Aqueous ammonia (10 ml) was added dropwise to the stirred cooled (<5° C.) reaction mixture, which was then stirred with cooling for 45 minutes. Benzene was removed under reduced pressure and the residual solid was washed with water and recrystallised to yield 4-methylthio-2-nitrobenzamide, (2.35 g), m.p. 176°-8° C.

reactant | 4-methylthio-2-nitrobenzoic acid | 4.56 g | CSC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4S
reactant | thionyl chloride | 2.77 g | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 10 ml | N | H3N
solvent | benzene | 65 ml | C1=CC=CC=C1 | C6H6
product | 4-methylthio-2-nitrobenzamide | 2.35 g | CSC1=CC(=C(C(=O)N)C=C1)[N+](=O)[O-] | C8H8N2O3S
